US08563575B2
A mixture of N-[4-(benzyloxy)phenyl]-3-nitropyridin-2-amine (1.5 g), Fe (2.6 g), and CaCl2 (260 mg) in EtOH (30 mL) and H2O (6.0 mL) was heated at 100° C. for 6 h. After cooling to rt, the precipitate was removed by Celite, and the filtrate was concentrated. The residue was partitioned between AcOEt and sat.NaHCO3aq. The organic layer was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography (SiO2, hexane/AcOEt=3/2 to 1/1). The obtained solid was rinsed with iPr2O-hexane to give N2-[4-(benzyloxy)phenyl]pyridine-2,3-diamine (1.0 g) as a pale pink solid.

reactant | N-[4-(benzyloxy)phenyl]-3-nitropyridin-2-amine | 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-] | C18H15N3O3
reactant | CaCl2 | 260 mg | [Cl-].[Cl-].[Ca+2]
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | H2O | 6.0 mL | O | H2O
catalyst | Fe | 2.6 g | [Fe] | Fe
product | N2-[4-(benzyloxy)phenyl]pyridine-2,3-diamine | 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC=C1N | C18H17N3O
